US05849764
Step 2.1B 2-[2-(2-bromo-1H-indol-3-yl)-ethyl]-isoindole-1,3-dione
To a solution of 2-[2-(1H-indol-3-yl)-ethyl]-isoindole-1,3-dione (1.0 g in a mixture of 10 mL dry tetrahydrofuran and 10 mL dry chloroform) at 0° C. was added pyridinium bromide perbromide (1.14 g) and the reaction stirred at 0° C. After 50 minutes, the reaction was quenched by the addition of saturated sodium bicarbonate and extracted with ethyl acetate. The organic portion was washed with saturated sodium bicarbonate (3x) and 0.3M sodium bisulfate (3x) then dried over magnesium sulfate. Purification of the concentrate by flash chromatography on silica gel (hexane:ethyl acetate, 3:1) gave the title compound (1.2 g).

reactant | 2-[2-(1H-indol-3-yl)-ethyl]-isoindole-1,3-dione | N1C=C(C2=CC=CC=C12)CCN1C(C2=CC=CC=C2C1=O)=O | C18H14N2O2
reactant | pyridinium bromide perbromide | 1.14 g | C1=CC=[NH+]C=C1.Br[Br-]Br
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-[2-(2-bromo-1H-indol-3-yl)-ethyl]-isoindole-1,3-dione | 1.2 g | BrC=1NC2=CC=CC=C2C1CCN1C(C2=CC=CC=C2C1=O)=O | C18H13BrN2O2
